US05158947
REFERENCE EXAMPLE 5 Preparation of 2-(5-bromopentyl)-1,3,4,5-tetrahydro-2-benzazepine-1,3-dione
In 20 ml of DMF was dissolved 100 mg of 1,3,4,5-tetrahydro-2-benzazepine-1,3-dione and the solution then ice-cooled. Then, to the resulting solution were added 0.117 ml (1.5 equivalent) of 1,5-dibromopentane and 27.4 mg (1.2 equivalent) of a 60% sodium hydride oil dispersion and the mixture was stirred for 1.5 hour with ice-cooling. Thereafter, the reaction solution was reacted and/or treated and purified in the same manner as in Reference Example 1 to give 109 mg (yield: 58.9%) of the title compound.

reactant | 1,3,4,5-tetrahydro-2-benzazepine-1,3-dione | 100 mg | C1(NC(CCC2=C1C=CC=C2)=O)=O | C10H9NO2
reactant | 1,5-dibromopentane | 0.117 ml, 1.5 equivalent | BrCCCCCBr | C5H10Br2
reactant | sodium hydride oil dispersion | [H-].[Na+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 2-(5-bromopentyl)-1,3,4,5-tetrahydro-2-benzazepine-1,3-dione | 109 mg, yield: 58.9% | BrCCCCCN1C(C2=C(CCC1=O)C=CC=C2)=O | C15H18BrNO2
